US06319920B1
A mixture of N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine hydrochloride (0.42 grams, 1.16 mmole) and potassium cyanate (1.5 grams, 18.5 mmole) in water (5 ml) was heated under reflux for about 20 minutes. The white solid which formed upon cooling was collected and recrystallized from chloroform/hexane to give N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(1-aminocarbonylpiperidin-4-ylmethyl)amine (0.3 grams, 77%), m.p. 104-10° C.

reactant | N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine hydrochloride | 1.16 mmole, 0.42 grams | Cl.COC1=CC=C(C=C1)CC(C)N(CC)CC1CCNCC1
reactant | potassium cyanate | 18.5 mmole, 1.5 grams | [O-]C#N.[K+]
solvent | water | 5 ml | O | H2O
product | N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(1-aminocarbonylpiperidin-4-ylmethyl)amine | 0.3 grams, 77% | COC1=CC=C(C=C1)CC(C)N(CC)CC1CCN(CC1)C(=O)N | C19H31N3O2
